US07863450B2
Oxalyl chloride (6.6 ml, 76 mmol, 1.2 eq) is added into a cold (ice bath) solution of 4-benzyloxy-benzoic acid (14.38 g, 63 mmol, 1 eq) and triethylamine (43.8 ml, 315 mmol, 5 eq) in dichloromethane (400 ml). The dark red mixture is warmed to room temperature and stirred for 2 h and then cooled to 0° C. A solution of 2-amino-2-methyl-propan-1-ol (5.6 g, 63 mmol, 1 eq) in dichloromethane (20 ml) is added and the mixture is stirred overnight at room temperature. The solvent is then removed under vacuum and the residue is dissolved in dichloromethane. This solution is washed once with water and the aqueous layer is extracted with dichloromethane. The organic layers are washed with a solution of 0.1 M sodium hydroxide and dried over magnesium sulfate. The solvent is removed under vacuum, to afford 15 g of 4-(benzyloxy)-N-(2-hydroxy-1,1-dimethylethyl)benzamide ax1 as a brown solid.

reactant | Oxalyl chloride | 76 mmol, 6.6 ml, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-benzyloxy-benzoic acid | 63 mmol, 14.38 g, 1 eq | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | triethylamine | 315 mmol, 43.8 ml, 5 eq | C(C)N(CC)CC | C6H15N
reactant | 2-amino-2-methyl-propan-1-ol | 63 mmol, 5.6 g, 1 eq | NC(CO)(C)C | C4H11NO
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(benzyloxy)-N-(2-hydroxy-1,1-dimethylethyl)benzamide | 15 g, Yield: 80% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC(CO)(C)C)C=C1 | C18H21NO3
